US08404722B2
under an N2 atmosphere, 4-(2-chlorobenzamido)benzoic acid (0.500 g, 1.81 mmol) was dissolved in N,N-dimethylformamide (10.0 ml) and the solution was treated with N-3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.696 g, 3.62 mmol), 1-hydroxybenzotriazole hydrate (0.491 g, 3.62 mmol), 2-amino-1-phenylethanol (0.498 g, 3.62 mmol), and triethylamine (0.506 ml, 3.62 mmol). The reaction was allowed to stir at room temperature overnight. The reaction was diluted with ethyl acetate and washed with 0.5N HCl followed by 5% NaHCO3. The organic layer was dried (Na2SO4), and concentrated in vacuo. The resulting solid was triturated with a mixture of ethyl acetate and hexanes to afford 2-chloro-N-(4-(((2-hydroxy-2-phenylethyl)amino)carbonyl)phenyl)benzamide (0.578 g, 71.5%) after collecting the solid by filtration. ESI m/z=395.0 (M+H+).

reactant | 4-(2-chlorobenzamido)benzoic acid | 1.81 mmol, 0.500 g | ClC1=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C14H10ClNO3
reactant | N′-ethylcarbodiimide hydrochloride | 3.62 mmol, 0.696 g | Cl.C(C)N=C=N
reactant | 1-hydroxybenzotriazole hydrate | 3.62 mmol, 0.491 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-amino-1-phenylethanol | 3.62 mmol, 0.498 g | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | triethylamine | 3.62 mmol, 0.506 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10.0 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-N-(4-(((2-hydroxy-2-phenylethyl)amino)carbonyl)phenyl)benzamide | 0.578 g, 71.5% | ClC1=C(C(=O)NC2=CC=C(C=C2)C(=O)NCC(C2=CC=CC=C2)O)C=CC=C1 | C22H19ClN2O3
